US08580968B2
A mixture of 2-fluoro-4-iodoaniline (24.19 g, 0.100 mole) and potassium ethylxanthogenate (35.27 g, 0.220 mole) in N,N-dimethylformamide (80 mL) was stirred at 95° C. for 5 hours. The reaction mixture was cooled to room temperature then diluted with water (150 mL) and 1 N aqueous HCl (200 mL). The mixture was stirred at room temperature overnight. The resulting precipitate was collected by filtration and rinsed with water. The solid was dried overnight at 85° C. in a vacuum oven to provide 6-iodobenzo[d]thiazole-2-thiol. 1H NMR (300 MHz, CD3OD) δ ppm 7.09 (d, J=8 Hz, 1H), 7.70 (dd, J=2, 8 Hz, 1H), 8.10 (d, J=2 Hz, 1H), 13.82 (sbroad, 1H); MS (DCI/NH3) m/z 294 (M+H)+.

reactant | 2-fluoro-4-iodoaniline | 0.100 mole, 24.19 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | potassium ethylxanthogenate | 0.220 mole, 35.27 g | CCOC(=S)[S-].[K+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | water | 150 mL | O | H2O
solvent | HCl | 1 N, 200 mL | Cl | ClH
product | 6-iodobenzo[d]thiazole-2-thiol | IC1=CC2=C(N=C(S2)S)C=C1 | C7H4INS2
